2150-05-04 10:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2150-5-3**] 07:12 PM
   [**2150-5-3**]:
   -Continues with tachycardia overnight to 110s-120s.  Received home dose
   dilt/metoprolol with minimal improvement. Received 40mg IV lasix due to
   pulmonary edema.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-5-4**] 12:06 AM
   Vancomycin - [**2150-5-4**] 08:24 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2150-5-3**] 11:01 PM
   Heparin Sodium (Prophylaxis) - [**2150-5-4**] 08:13 AM
   Omeprazole (Prilosec) - [**2150-5-4**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-5-4**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.5
C (97.7
   HR: 125 (114 - 140) bpm
   BP: 96/45(58) {75/45(58) - 122/95(98)} mmHg
   RR: 32 (22 - 39) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    541 mL
                                                                    685 mL
   PO:
                                                                    300 mL
                                                                    330 mL
   TF:
   IVF:
                                                                    241 mL
                                                                    355 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                    340 mL
   Urine:
                                                                    100 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    441 mL
                                                                    345 mL
   Respiratory support
   O2 Delivery Device: Shovel mask at 3 L per minute
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General: Alert, oriented, breathing in the 30s without clear distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Decreased breath sounds at the bases bilaterally, L moreso than
   R side. No crackles or wheezes.
   CV: Tachycardic, irregular, no mumurs appreciated.
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: + foley
   Ext: warm, well perfused, 2+ pulses, R leg wrapped in bandages.
   Labs / Radiology
   550 K/uL
   10.3 g/dL
   162 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.1 mEq/L
   22 mg/dL
   104 mEq/L
   137 mEq/L
   36.7 %
   32.2 K/uL
        [image002.jpg]
                             [**2150-5-3**]  07:40 PM
                             [**2150-5-4**]  03:48 AM
   WBC
   33.9
   32.2
   Hct
   39.4
   36.7
   Plt
   702
   550
   Cr
   1.0
   1.1
   TropT
   0.04
   Glucose
   121
   162
   Other labs:
   CK / CKMB / Troponin-T:66//0.04,
   Differential-Neuts:97.2 %, Lymph:1.5 %, Mono:1.0 %, Eos:0.2 %,
   Ca++:8.9 mg/dL, Mg++:1.6 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   [**Age over 90 323**]yo F w/hx of afib, MR, TR, COPD who was admitted s/p fall and found
   to have a worsening oxygen requirement and afib with RVR.
   .
   1. Hypoxia:  CTA shows bilateral effusions with LLL collapse.  No clear
   infection and no pulmonary edema.  Effusions may be secondary to heart
   failure vs. malignancy given mediastinal lymphadenopathy also seen on
   CT.  She responded to Lasix last evening.  Given pulmonary nodules,
   mediastinal lymphadenopathy and liver lesion, lung malignancy is also
   in the differential.  Pulmonary edema may be causing her hypoxia but
   this is not prominent on CTA.  Infection may be contributing given her
   elevated WBC and low-grade temp on admission. Has pulmonary nodules on
   CT which could represent malignancy
 this has not yet been discussed
   with patient.
   - Lasix 40mg IV X 1
 hold further for now given hypotension
   - F/U echo results
   - Add on BNP
   - ipratropium nebs standing
   - Vanc/Zosyn for HCAP coverage
   - will defer thoracentesis given that this is likely CHF
   - if no improvement, consider bronchoscopy to open collapsed lung
   - ipratropium nebs - will hold on albuterol given tachycardia
   - incentive spirometer
   .
   2. Afib with RVR: may be precipitated by lung etiology given hypoxia.
   Blood pressure is currently stable.  Currently on Diltiazem and
   Metoprolol (Metoprolol increased to 75mg PO BID currently).
   - will give additional PO Metoprolol as tolerated by blood pressure
   - if not controlled by Metoprolol, could consider esmolol if blood
   pressure does not tolerate; could change to 75 TID for more frequent
   dosing
   - echo today
   - continue to hold coumadin given history of falls
   - Continue long-acting diltiazem
   .
   3. Extensive Mediastinal Lymphadenopathy: Differential includes
   infection vs. malignancy.  Malignancy may include lung primary, liver,
   breast, colon or lymphoma.  Patient reports negative mammograms and
   recent colonoscopy [**8-31**] with a benign tumor removed at [**Hospital 237**]
   Hospital.  No current signs of infection although patient has low-grade
   temp of 100.9.  Leukocytosis is chronic.
   - Antibiotics as above
   - Cancer diagnosis is not likely to be useful in this patient given her
   age and comorbidities but can have the discussion with her family
   .
   4. Leukocytosis: Chronic per records, has not been seen by hematology.
   WBC is up to 30 today.  Pt with low grade temp of 100.9 on admission.
   - consider infectious etiology with blood cultures, repeat UA and
   culture, C. Diff
   - Antibiotics with Vanc/Zosyn
   .
   5. Thrombocytosis: continue Hydroxyurea
   .
   6. Hx of Cellulitis: d/c Keflex given antibiotics above
   .
   .
   # FEN: No IVF, replete electrolytes, clears currently - ADAT
   # Prophylaxis: Subcutaneous heparin
   # Access: Peripherals
   # Communication: Patient and son who is HCP
   # Code:  DNR but okay to intubate, discussed at length with patient and
   son
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2150-5-3**] 07:12 PM
   18 Gauge - [**2150-5-3**] 07:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2150-05-05 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2150-5-4**] 11:08 AM
   - TTE: LVH, EF >55%, diastolic dysfunction, moderate pulmonary artery
   HTN, no pericardial effusion.
   - BNP: 10,550
   - Tachycardic to 130s-140s around midnight; received 75 mg PO
   metoprolol with minimal effect. Checked urine lytes given poor UOP and
   appeared prerenal, so gave 500cc bolus NS. BPs were low earlier in day
   to SBPs in 80s, but came up overnight to 100s. Patient remained
   tachycardic (up to 150s) after bolus so additional 75 mg metoprolol PO
   given.
   - Given RV dysfxn on TTE, added on cardiac enzymes to labs in case RV
   hypokinesis is related to recent ischemic event
   - Despite prior interventions, RVR increased to 160s. Given 5 mg IV
   metoprolol x 2 and 5 mg IV dilt x 1 with minimal improveme to
   130s-140s. Digoxin 0.25 mg IV given (per prior OMR records, this was
   effective for rate control on previous admission for A-fib with RVR).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2150-5-4**] 08:24 AM
   Piperacillin/Tazobactam (Zosyn) - [**2150-5-5**] 04:13 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2150-5-4**] 08:13 AM
   Heparin Sodium (Prophylaxis) - [**2150-5-4**] 02:46 PM
   Metoprolol - [**2150-5-5**] 04:45 AM
   Diltiazem - [**2150-5-5**] 04:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-5-5**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36
C (96.8
   HR: 129 (85 - 148) bpm
   BP: 94/52(61) {74/39(50) - 114/68(75)} mmHg
   RR: 35 (26 - 36) insp/min
   SpO2: 87%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,450 mL
                                                                  1,070 mL
   PO:
                                                                    910 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    540 mL
                                                                    670 mL
   Blood products:
   Total out:
                                                                    602 mL
                                                                    165 mL
   Urine:
                                                                    602 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    848 mL
                                                                    905 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 87%
   ABG: ///27/
   Physical Examination
   General: Awake, oriented to person, NAD
   HEENT: On shovel mask, mm slightly dry, JVP upper limit of normal
   Cardiac: Tachycardic to 120s
   Lungs: Decreased BS at L base, rales L mid-field
   Abdomen: Soft, NT/ND
   Extremities: LLE wrapped, no significant peripheral edema
   Labs / Radiology
   503 K/uL
   10.6 g/dL
   112 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.0 mEq/L
   29 mg/dL
   102 mEq/L
   139 mEq/L
   37.1 %
   17.2 K/uL
        [image002.jpg]
                             [**2150-5-3**]  07:40 PM
                             [**2150-5-4**]  03:48 AM
                             [**2150-5-5**]  02:17 AM
   WBC
   33.9
   32.2
   17.2
   Hct
   39.4
   36.7
   37.1
   Plt
   [**Telephone/Fax (3) 12138**]
   Cr
   1.0
   1.1
   1.3
   TropT
   0.04
   Glucose
   121
   162
   112
   Other labs: CK / CKMB / Troponin-T:37//0.04, Differential-Neuts:97.2 %,
   Lymph:1.5 %, Mono:1.0 %, Eos:0.2 %, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   [**Age over 90 323**]yo F w/hx of afib, MR, TR, COPD who was admitted s/p fall and found
   to have a worsening oxygen requirement and afib with RVR.
   .
   1. Hypoxia:  CTA shows bilateral effusions with LLL collapse.  No clear
   infection and no pulmonary edema.  Effusions may be secondary to heart
   failure vs. malignancy given mediastinal lymphadenopathy also seen on
   CT.  She responded to Lasix last evening.  Given pulmonary nodules,
   mediastinal lymphadenopathy and liver lesion, lung malignancy is also
   in the differential.  Pulmonary edema may be causing her hypoxia but
   this is not prominent on CTA.  Infection may be contributing given her
   elevated WBC and low-grade temp on admission. Has pulmonary nodules on
   CT which could represent malignancy
 this has not yet been discussed
   with patient.  Echo shows diastolic dysfxn
 unknown duration. If
   recently worsened (e.g. from ischemic event) could contribute to
   current sx. BNP markedly elevated to 10K. CE currently flat. WBC count
   trending down on Abx; afebrile. Markedly increased opacity in L lung
   today, still appears atelectasis of lower lobe with ? infiltrate vs.
   fluid in upper lobe.
   - Consider further diuresis if resp status deteriorates
   - ipratropium nebs standing
   - Vanc/Zosyn for HCAP coverage
   - will defer thoracentesis given that this is likely CHF
   - if no improvement, consider bronchoscopy to open collapsed lung
   - ipratropium nebs - will hold on albuterol given tachycardia
   - incentive spirometer
   - Address pulmonary findings with son/patient today
   .
   2. Afib with RVR: may be precipitated by lung etiology given hypoxia.
   Blood pressure is currently stable.  Currently on Metoprolol
   (Metoprolol increased to 75mg PO TID currently). RVR to 160s overnight,
   initially 75 mg metoprolol PO x 2, 500 cc NS bolus, with minimal
   response, then IV metoprolol x 2 and IV dilt x 1 still with minimal
   response.  Long-acting dilt stopped for better dose control. Would
   begin with Q6H PO dilt titrated to best rate control that pressures
   will allow. Received 0.25 mg digoxin earlier (due for 2^nd dose given
   still tachycardic)
 this has helped with RVR during prior admission.
   - Will give additional PO Metoprolol as tolerated by blood pressure
   - if not controlled by Metoprolol, could consider esmolol if blood
   pressure does not tolerate
   - Would continue digoxin at 0.125 daily for now
   - Continue to hold coumadin given history of falls
   - Would start dilt 60 PO Q6H and titrate PRN
   .
   3. Extensive Mediastinal Lymphadenopathy: Differential includes
   infection vs. malignancy.  Malignancy may include lung primary, liver,
   breast, colon or lymphoma.  Patient reports negative mammograms and
   recent colonoscopy [**8-31**] with a benign tumor removed at [**Hospital 237**]
   Hospital.  No current signs of infection although patient has low-grade
   temp of 100.9.  Leukocytosis is chronic; nearly back to baseline.
   - Antibiotics as above
   - Cancer diagnosis is not likely to be useful in this patient given her
   age and comorbidities but should have the discussion with her family
   .
   4. Leukocytosis: Chronic per records, has not been seen by hematology.
   WBC down to 17 today (near baseline).  Pt with low grade temp of 100.9
   on admission, afebrile yesterday.
   - F/U blood, urine cx
   - Antibiotics with Vanc/Zosyn
   .
   5. Thrombocytosis: continue Hydroxyurea
   6. Acute renal failure: Creatinine up to 1.3 today. Patient may be
   intravascularly dry. Had decreased UOP yesterday with urine lytes in
   pre-renal [**Doctor Last Name 12139**] (FeNa ~0.2%).
   - Consider additional IVF, though would be cautious given increased
   fluid on CXR
   - Monitor volume status, UOP
   .
   7. Hx of Cellulitis: d/c Keflex given antibiotics above. 3 lesions on
   LLE unchanged per nursing.
   .
   .
   # FEN: No standing IVF (received 500 cc bolus), replete electrolytes,
   advanced to regular diet + Ensure
   # Prophylaxis: Subcutaneous heparin
   # Access: Peripherals
   # Communication: Patient and son who is HCP
   # Code:  DNR but okay to intubate, discussed at length with patient and
   son
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2150-5-3**] 07:12 PM
   18 Gauge - [**2150-5-3**] 07:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2150-05-05 10:36:00 Physician Attending Progress Note
Chief Complaint: respiratory distress, tachycardia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 323**] yo women with hypoxemia, AFib with RVR.  Yesterday was hypotensive
   in setting of increasing lopressor doses.  Last night then because more
   tachycardic and more hypertensive.  Digoxin added.
   HR in 120s.
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2150-5-4**] 11:08 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-5-5**] 04:13 AM
   Vancomycin - [**2150-5-5**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-5-4**] 02:46 PM
   Metoprolol - [**2150-5-5**] 04:45 AM
   Diltiazem - [**2150-5-5**] 04:57 AM
   Other medications:
   lidocaine patch
   prilosec
   advair
   lexipro
   asa
   calcium
   lopressor tid 75mg tid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-5-5**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 109 (85 - 148) bpm
   BP: 99/53(64) {74/39(50) - 111/68(75)} mmHg
   RR: 36 (26 - 36) insp/min
   SpO2: 85%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,450 mL
                                                                  1,662 mL
   PO:
                                                                    910 mL
                                                                    760 mL
   TF:
   IVF:
                                                                    540 mL
                                                                    902 mL
   Blood products:
   Total out:
                                                                    602 mL
                                                                    325 mL
   Urine:
                                                                    602 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    848 mL
                                                                  1,337 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 85%
   ABG: ///27/
   Physical Examination
   General Appearance: moderate distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), JVP >10cm
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral rales)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): to name only, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.6 g/dL
   503 K/uL
   112 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.0 mEq/L
   29 mg/dL
   102 mEq/L
   139 mEq/L
   37.1 %
   17.2 K/uL
        [image002.jpg]
                             [**2150-5-3**]  07:40 PM
                             [**2150-5-4**]  03:48 AM
                             [**2150-5-5**]  02:17 AM
   WBC
   33.9
   32.2
   17.2
   Hct
   39.4
   36.7
   37.1
   Plt
   [**Telephone/Fax (3) 12138**]
   Cr
   1.0
   1.1
   1.3
   TropT
   0.04
   <0.01
   Glucose
   121
   162
   112
   Other labs: CK / CKMB / Troponin-T:37//<0.01, Differential-Neuts:97.2
   %, Lymph:1.5 %, Mono:1.0 %, Eos:0.2 %, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB):  continue lopressor, will start dig load
   - give 0.5gm now.
   pulmonary edema:   will give low dose lasix to improve urine output.
   PNA:  CT with evidence of PNA - nodular infiltrates.  Continue broad
   spectrum antibiotics.  WBC improved.
   lymphadnopathy:  Likely from myeloproliferative disorder.
   Renal failure:  likely due to poor perfusion with HF and HOTN.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2150-5-3**] 07:12 PM
   18 Gauge - [**2150-5-3**] 07:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2150-05-06 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2150-5-5**]:
   - Improved control of heart rate (90-80s during the day, 60s overnight)
   on current regimen of digoxin, metoprolol, and diltiazem.
   - Given lasix (10mg IV x1, 20mg IV x1) during day and then 20mg IV
   overnight. Respiratory status improved from 95% high flow mask to 5L
   nasal canula.
   - TTE: normal LV systolic function (EF >55%), the right ventricular
   cavity is moderately dilated with mild global free wall hypokinesis,
   there is abnormal septal motion/position consistent with right
   ventricular pressure/volume overload. to moderate ([**1-24**]+) mitral
   regurgitation is seen. The left ventricular inflow pattern suggests a
   restrictive filling abnormality, with elevated left atrial pressure.
   The tricuspid valve leaflets are mildly thickened. Moderate [2+]
   tricuspid regurgitation is seen. There is moderate pulmonary artery
   systolic hypertension. There is no pericardial effusion.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2150-5-5**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2150-5-5**] 06:51 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-5-5**] 10:10 PM
   Furosemide (Lasix) - [**2150-5-6**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-5-6**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 35.9
C (96.6
   HR: 76 (59 - 127) bpm
   BP: 129/60(76) {88/39(52) - 129/69(79)} mmHg
   RR: 25 (19 - 36) insp/min
   SpO2: 94%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  2,120 mL
                                                                     71 mL
   PO:
                                                                    880 mL
             TF:
   IVF:
                                                                  1,240 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  1,785 mL
                                                                  1,195 mL
   Urine:
                                                                  1,785 mL
                                                                  1,195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    335 mL
                                                                 -1,125 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General: Awake in bed, oriented to person and
[**Hospital **] hospital
   HEENT: NC in place, JVP elevated but less than prior, ecchymoses on
   face
   CV: Irregular rhythm with rate ~90s, [**2-28**] holosystolic murmur at apex
   Lungs: Decerased BS bilaterally, soft rales at bases
   Abdomen: Soft, NT/ND, +NABS
   Extremities: 2+ DP pulses, lesions on LLE unchanged
   Labs / Radiology
   508 K/uL
   10.2 g/dL
   111 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.0 mEq/L
   30 mg/dL
   106 mEq/L
   142 mEq/L
   36.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2150-5-3**]  07:40 PM
                             [**2150-5-4**]  03:48 AM
                             [**2150-5-5**]  02:17 AM
                             [**2150-5-5**]  02:12 PM
                             [**2150-5-6**]  03:11 AM
   WBC
   33.9
   32.2
   17.2
   10.9
   Hct
   39.4
   36.7
   37.1
   36.3
   Plt
   [**Telephone/Fax (3) 12145**]08
   Cr
   1.0
   1.1
   1.3
   1.1
   1.0
   TropT
   0.04
   <0.01
   <0.01
   Glucose
   121
   162
   112
   131
   111
   Other labs:
   PT / PTT / INR:14.5/38.9/1.3,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Dig 2.1
   Micro:
   - Urine legionella negative
   - Blood, urine cx NGTD
   Assessment and Plan
   [**Age over 90 323**]yo F w/hx of afib, MR, TR, COPD who was admitted s/p fall and found
   to have a worsening oxygen requirement and afib with RVR.
   .
   1. Hypoxia:  CTA shows bilateral effusions with LLL collapse.  No clear
   infection and no pulmonary edema.  Effusions may be secondary to heart
   failure vs. malignancy given mediastinal lymphadenopathy also seen on
   CT.  She responded to Lasix last evening.  Given pulmonary nodules,
   mediastinal lymphadenopathy and liver lesion, lung malignancy is also
   in the differential.  Pulmonary edema may be causing her hypoxia but
   this is not prominent on CTA.  Infection may be contributing given her
   elevated WBC and low-grade temp on admission. Has pulmonary nodules on
   CT which could represent malignancy
 this has not yet been discussed
   with patient.  Echo shows diastolic dysfxn
 unknown duration.  BNP
   markedly elevated to 10K. CE currently flat. WBC count trending down on
   Abx; afebrile. Continues with fluid in lungs on CXR although net fluid
   balance negative. Good response to IV Lasix this AM.
   -  Continue IV Lasix 20 [**Hospital1 **] standing to goal net negative ~1L daily
   - continue Vanc/Zosyn for
   - ipratropium nebs standing
   - incentive spirometer
   - Address pulmonary findings with son/patient today
   - [**Hospital1 **] electrolytes while on Lasix
   .
   2. Afib with RVR: may be precipitated by lung etiology given hypoxia.
   Blood pressure is currently stable.  Currently on Metoprolol
   (Metoprolol increased to 75mg PO TID currently). RVR to 160s [**5-5**],
   initially 75 mg metoprolol PO x 2, 500 cc NS bolus, with minimal
   response, then IV metoprolol x 2 and IV dilt x 1 still with minimal
   response.  Long-acting dilt stopped for better dose control.  Currently
   rate in 80s with SBPs 100-110s.
   - Continue current dosing of dilt, metoprolol, digoxin (appears
   appropriately loaded, will trend level).
   - continue metoprolol and diltiazem as tolerated by blood pressure
   - Continue to hold coumadin given history of falls
   .
   3. Extensive Mediastinal Lymphadenopathy: Differential includes
   infection vs. malignancy.  Malignancy may include lung primary, liver,
   breast, colon or lymphoma.  Patient reports negative mammograms and
   recent colonoscopy [**8-31**] with a benign tumor removed at [**Hospital 237**]
   Hospital.  No current signs of infection although patient has low-grade
   temp of 100.9.  Leukocytosis is chronic; nearly back to baseline.
   - Antibiotics as above
   - Cancer diagnosis is not likely to be useful in this patient given her
   age and comorbidities but should have the discussion with her family
   .
   4. Leukocytosis: Chronic per records, has not been seen by hematology.
   WBC down to 17 today (near baseline).  Pt with low grade temp of 100.9
   on admission, afebrile yesterday.
   - F/U blood, urine cx
   - Antibiotics with Vanc/Zosyn
   .
   5. Thrombocytosis: continue Hydroxyurea 3 days per week
   6. Acute renal failure: Back at baseline today with improved UOP since
   starting Lasix IV.
   - Monitor volume status, UOP
   .
   7. Hx of Cellulitis: d/c Keflex given antibiotics above. 3 lesions on
   LLE unchanged per nursing.
   .
   .
   # FEN: No standing IVF, replete electrolytes, ADAT to regular diet +
   Ensure
   # Prophylaxis: Subcutaneous heparin
   # Access: Peripherals
   # Communication: Patient and son who is HCP
   # Code:  DNR but okay to intubate, discussed at length with patient and
   son
   # Disposition: ICU pending clinical improvement  - possible call out to
   [**Hospital Ward Name 790**] 3 or floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2150-5-5**] 09:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: